US07727985B2
n-Butyl lithium (1.0 eq, 76 mmol, 47.6 mL, 1.6 M in hexanes) was added via dropping funnel to a solution of diisopropylamine (1.05 eq, 80 mmol, 11.2 mL) in THF (300 mL) at −78° C. under nitrogen (N2). The solution was stirred for 30 min at −78° C., then a solution of 3,5-difluoropyridine (1.05 eq, 80 mmol, 9.2 g) in THF (20 mL) was added dropwise via syringe. A beige precipitate was observed to form. The reaction stirred at −78° C. for 90 min then tributyltin chloride (1.0 eq, 76 mmol, 20.7 mL) was added dropwise via syringe and the resulting solution allowed to warm to RT over 2 h. Water (5 mL) was added, then roughly 250 mL of THF was removed on a rotary evaporator. The resulting material was diluted with diethyl ether (350 mL) and washed successively with water (2×200 mL), saturated sodium chloride solution (1×150 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford the 3,5-Difluoro-4-tributylstannanyl-pyridine as a colourless oil (27.5 g, 88%). This material was used crude without further purification.

reactant | n-Butyl lithium | 76 mmol, 1.6 M, 47.6 mL, 1.0 eq | C(CCC)[Li]
reactant | diisopropylamine | 80 mmol, 11.2 mL, 1.05 eq | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-difluoropyridine | 80 mmol, 9.2 g, 1.05 eq | FC=1C=NC=C(C1)F | C5H3F2N
reactant | tributyltin chloride | 76 mmol, 20.7 mL, 1.0 eq | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | 5 mL | O | H2O
product | 3,5-Difluoro-4-tributylstannanyl-pyridine | 27.5 g, 88% | FC=1C=NC=C(C1[Sn](CCCC)(CCCC)CCCC)F | InChI=1S/C5H2F2N.3C4H9.Sn/c6-4-1-5(7)3-8-2-4;3*1-3-4-2;/h2-3H;3*1,3-4H2,2H3;
